US05464811
2-Fluoro-4-chloro-5- (2-methylcyclopentyl) oxyaniline (660 mg, 2.71 mmol), 3,4,5,6-tetrahydrophthalic anhydride (503 mg, 3.31 mmol) and acetic acid (10 ml) were charged into a 50 cc round-bottom flask, and heated for 5 hours while refluxing. After completion of the reaction, the reaction solution was cooled to room temperature, and poured into ice-water (100 ml). The mixture was extracted with ethyl acetate (30 ml×3), and the organic layers were combined, washed with water and a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate. The drying agent was separated by filtration, the solvent was distilled off under reduced pressure, and the resulting pale brown oily substance was purified by silica gel column chromatography (development solvent: hexane/ethyl acetate=9/1) to obtain N-{2-fluoro-4-chloro-5-(2-methylcyclopentyl)oxyphenyl}-3,4,5,6-tetrahydrophthalimide (1.00 g, 2.65 mmol, 98% yield)

reactant | 2-Fluoro-4-chloro-5- (2-methylcyclopentyl) oxyaniline | 2.71 mmol, 660 mg | FC1=C(N)C=C(C(=C1)Cl)OC1C(CCC1)C | C12H15ClFNO
reactant | 3,4,5,6-tetrahydrophthalic anhydride | 3.31 mmol, 503 mg | C1(C2=C(C(=O)O1)CCCC2)=O | C8H8O3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | N-{2-fluoro-4-chloro-5-(2-methylcyclopentyl)oxyphenyl}-3,4,5,6-tetrahydrophthalimide | 2.65 mmol, 1.00 g, 98% yield | FC1=C(C=C(C(=C1)Cl)OC1C(CCC1)C)N1C(C2=C(C1=O)CCCC2)=O | C20H21ClFNO3
